US05112922
5-Bromo-N-octylpentanamide (17.49 g) (mp μ30°) was prepared from 5-bromopentanoyl chloride (12.96 g) and octylamine (9.05 g) by an analogous method to that described in Example 2a.

reactant | 5-bromopentanoyl chloride | 12.96 g | BrCCCCC(=O)Cl | C5H8BrClO
reactant | octylamine | 9.05 g | C(CCCCCCC)N | C8H19N
product | 5-Bromo-N-octylpentanamide | 17.49 g | BrCCCCC(=O)NCCCCCCCC | C13H26BrNO
